US07786115B2
3-(7-Hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoic acid (295 mg), HATU (406 mg) and cyclobutylamine (0.43 ml) were dissolved in DMF (25 ml) and stirred at room temperature for 18 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (magnesium sulfate) and concentrated. The residue was purified by column chromatography with ethyl acetate to give N-cyclobutyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide as a white solid (150 mg); NMR Spectrum: (DMSOd6) 1.35 (m, 2H), 2.03 (m, 2H), 2.10 (s, 3H), 2.20 (m, 2H), 4.40 (m, 1H), 6.65 (d, 1H), 7.12 (d, 1H), 7.22 (m, 1H), 7.46 (d, 1H), 7.60 (m, 2H), 7.76 (s, 1H), 7.85 (d, 1H) 8.60 (d, 1H), 10.00 (s, 1H); Mass Spectrum: M+H+ 349.

reactant | 3-(7-Hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoic acid | 295 mg | OC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)O)C=CC1C | C17H13NO4
reactant | HATU | 406 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclobutylamine | 0.43 ml | C1(CCC1)N | C4H9N
reactant | water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-cyclobutyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | 150 mg | C1(CCC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)O)=O)=O | C21H20N2O3
